US07781436B2
2-{6-Chloro-3-[4-(2-trifluoromethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetamide
Analogous to general procedure I, the coupling of {6-chloro-3-[4-(2-trifluoromethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid (prepared herein) with (commercially available) ammonia in THF, gave the title compound.

reactant | {6-chloro-3-[4-(2-trifluoromethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid | ClC1=CC=C2C(=CN(C2=C1)CC(=O)O)C(=O)N1CCC(CC1)C1=C(C=CC=C1)OC(F)(F)F | C23H20ClF3N2O4
reactant | ammonia | N | H3N
solvent | THF | C1CCOC1 | C4H8O
product | 2-{6-Chloro-3-[4-(2-trifluoromethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetamide | ClC1=CC=C2C(=CN(C2=C1)CC(=O)N)C(=O)N1CCC(CC1)C1=C(C=CC=C1)OC(F)(F)F | C23H21ClF3N3O3
